2156-05-31 07:34:00 Physician Resident Progress Note
Chief Complaint: Cardiorespiratory arrest with subsequent cardiac
   enzyme leak, now on cooling protocol.
   24 Hour Events:
 MULTI LUMEN - START [**2156-5-30**] 03:00 PM (femoral)
   - echo showing EF 50%, HK of the inferior free and posterior walls
   - antiobiotics changed to ceftriaxone/azithro to cover CAP, UTI and
   possible aspiration
   - in the late afternoon, BP dropped to 80s systolic/maps in 50s; CLV
   placed and low-dose dopamine started. ECG unchanged; 2L saline given
   with subsequent HD improvement.
   - pt with PaO2 drop into the 50s from the 100s, got a stat CXR which
   looks better, increased FiO2, repeated a blood gas which confirmed PaO2
   in the 100s which suggested that was a spurious value
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2156-5-30**] 01:10 PM
   Ampicillin - [**2156-5-30**] 02:09 PM
   Azithromycin - [**2156-5-30**] 08:00 PM
   Ceftriaxone - [**2156-5-30**] 08:00 PM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2156-5-31**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-5-31**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   HR: 66 (47 - 66) bpm
   BP: 101/56(70) {82/50(62) - 141/74(99)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,237 mL
                                                                    685 mL
   PO:
             TF:
   IVF:
                                                                  6,237 mL
                                                                    685 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    285 mL
   Urine:
                                                                  1,745 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,492 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/32/113/20/-4
   Ve: 7.2 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Overweight man with no spontaneous behavior. Ventilated, intubated.
   [**Location (un) 408**]-J in place.
   Scleral edema.
   Heart sounds dual, no murmur, no s3, s4 appreciated
   Chest expansion symmetric without adventitious sounds laterally
   Belly tense, but bowel sounds present
   Trace peripheral edema
   GCS 3, without response to pain
 no EEG desynchronization noted on
   pain (nailbed compression) or very loud clap. CNs without activity (s/p
   cessation of paralysis 3-4 hours earlier)
 no papillary response,
   cannot evaluate doll
s eye in [**Location (un) 408**]-J. Caloric testing not performed.
   Areflexic (brachial, brachioradialis, plantar, snout). EEG (when
   connected with theta and superimposed beta
 no changes to sounds,
   pain, other environmental stimuli).
   Labs / Radiology
   177 K/uL
   13.2 g/dL
   109 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.8 mEq/L
   20 mg/dL
   111 mEq/L
   139 mEq/L
   38.3 %
   6.8 K/uL
        [image002.jpg]
                             [**2156-5-30**]  11:04 AM
                             [**2156-5-30**]  11:09 AM
                             [**2156-5-30**]  01:59 PM
                             [**2156-5-30**]  03:38 PM
                             [**2156-5-30**]  03:49 PM
                             [**2156-5-30**]  08:53 PM
                             [**2156-5-30**]  09:07 PM
                             [**2156-5-30**]  10:10 PM
                             [**2156-5-31**]  04:12 AM
                             [**2156-5-31**]  04:37 AM
   WBC
   6.8
   Cr
   1.0
   1.0
   1.2
   1.4
   TropT
   0.77
   TCO2
   22
   20
   18
   20
   21
   20
   Glucose
   122
   131
   175
   109
   Other labs: PT / PTT / INR:12.1/33.8/1.0, CK / CKMB /
   Troponin-T:1861/76/0.77, ALT / AST:266/136, Alk Phos / T Bili:32/0.4,
   Differential-Neuts:91.3 %, Lymph:3.9 %, Mono:4.2 %, Eos:0.2 %, Lactic
   Acid:1.5 mmol/L, Albumin:4.0 g/dL, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.4 mg/dL
   Fluid analysis / Other labs: .
   Imaging: CT head and neck showed no bleed or fracture at [**Hospital1 9335**].
   Microbiology: Sputum Gram stain shows gram positive cocci in pairs and
   clusters, 4+
   Blood and urine cultures pending.
   MRSA screen pending.
   ECG: .
   Assessment
   66 YOM with no past medical history or recent medical care presents
   after cardiac arrest requiring defibrillation times 2, ST elevations on
   EKG by EMS and OSH, transferred for further management and found to
   have resolution of ST elevations but poor neurological exam.  Initiated
   on cooling protocol.
   Plan
   Cardiorespiratory Arrest
   Likely AMI given enzymes still up and likely short (relatively for
   myocardium) hypoxia. Likely STEMI. Possibly followed by VF arrest. PE
   unlikely based on echo and presentation, EKG, enzymes.
   - Continue aspirin, plavix, high dose atorvastatin, and heparin gtt
   - obtain am EKG and monitor on telemetry
   - follow cardiac biomarkers
   - Initiate cooling protocol;
      *continuous EEG x 48 hr, cool to 33.5 x 24 hrs ([**First Name8 (NamePattern2) 77**] [**First Name4 (NamePattern1) 7916**] [**Last Name (NamePattern1) 1580**])
      *start paralytics with Cisatracurium Besylate for shivering,
   continue fentanyl/midazolam for sedation and pain control
      *HOB elevated > 30 degrees
   - Chem 7, CBC, INR, tox screen - pending
   Mental Status
   No evidence of sensory evoked potenials. Areflexia likely due to
   paralysis or, less likely,
spinal shock
. Sedation may also be
   responsible for lack of EEG activity. Will keep paralytics off and wean
   sedation as warming today to further evaluate neurologic status.
   - Neurologic exam this afternoon after paralytics off for longer and
   sedation weaned
   - Appeciate Neurology input
   Intubation, respiratory failure, critical care
   Initially intubated for airway protection. Drawing large tidal volumes
   prior to paralysis. Paralytics kept on to facilitate mechanical
   ventilation. Found to have unclear opacities on CXR which may be blood,
   sputum, or edema.
   - ventalation weaned to FiO2 50%, will recheck ABG  (goal CO2 < 40)
   - fentanyl/midazolam for sedation and pain control
   - continue antibiotics with unasyn for aspiration coverage, consider
   stopping vanc
   - Q 6 mouth care
   .
   * Hypertension: Pt came to the floor with blood pressures above 250.
   Has known hypertension, per wife but not on any antihypertensive
   medications at home.  Unusual to have hypertension in the setting of
   MI, but may have increased catecholamines after resucitation.
   -- continue nitro gtt as needed
   -- 5 mg IV lopressor Q 6 Hr
   -- will eventually convert to PO beta blocker and ACEI once under
   better control and taking POs
   .
   * Neurologic unresponsiveness:  Found to have decorticate posturing at
   OSH.  Did not have pupillary or gag reflexes in ED.
   -- continue cooling protocol with 48 hr EEG
   -- f/u with neurology
   -- continue sedation and paralysis
   .
   * UTI: moderate bacteria seen on UA
   -- f/u culture
   -- continue unasyn as above
   .
   * FEN/GI:  Has OG tube in place but will be NPO while on paralytics
   -- famotidine IV Q 12
   .
   .
   ACCESS: 2 18 G PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain management with fentanyl
   -ppi with famotidine
   -Bowel regimen with docusate, senna when taking PO
   .
   CODE: full
   .
   COMM: [**Name (NI) **] (son, should be called first) [**Telephone/Fax (1) 12697**], [**Name (NI) 3373**]
   (wife) [**Telephone/Fax (1) 12698**], [**Doctor First Name 1189**] (daughter) [**Telephone/Fax (1) 12699**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2156-5-29**] 11:30 PM
   18 Gauge - [**2156-5-30**] 12:00 AM
   20 Gauge - [**2156-5-30**] 12:00 AM
   Multi Lumen - [**2156-5-30**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-06-01 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2156-5-31**]
   - Paralytics turned off at about 4 or 5 a.m.
   - decreased sedation and warmed
   - Dopamine weaned off
   - Was acidotic on blood gas after warming. Appeared non-gap metabolic
   acidosis with imperfect respiratory compensation. Was some increase in
   pCO2 to 46 and acidotic, so figure that CO2 production increased with
   warming, so allowed patient to autoregulate on pressure support. ABG
   improved then switched to AC to rest again overnight with better ABGs.
   - Neuro exam after lightening of sedation, holding paralytics for 12
   hours and re-warming revealed sluggish corneal on left, absent on
   right, bilateral normal biceps reflexes, increased tone in legs with
   absent patella and plantar reflexes.  Later in evening was able to move
   all 4 extremities, but unclear if entirely purposeful.
   - Added beta-blocker 5 mg Lopressor IV q 6 h, but held early am doses
   due to hypotension
   - Was bolused 500 cc x 2 for low urine output (BP fine). Responded to
   first bolus but not so much for the second. Stop boluses as 7L+ LOS.
   FENa 0.4; FEUrea 26.5
   - Urine output fell off in afternoon then again in a.m. - bladder scan
   showed 900 cc - called Urology and tried their suggestions to no avail
   - they came and replaced with good urine output of about 1 liter
   - Patient sat up this a.m. and A-line split - quite some bleeding -
   A-line removed.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2156-5-30**] 01:10 PM
   Ampicillin - [**2156-5-30**] 02:09 PM
   Ceftriaxone - [**2156-5-31**] 08:00 PM
   Azithromycin - [**2156-5-31**] 08:45 PM
   Infusions:
   Heparin Sodium - 900 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Fentanyl - [**2156-6-1**] 12:15 AM
   Famotidine (Pepcid) - [**2156-6-1**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-6-1**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.8
   HR: 74 (73 - 118) bpm
   BP: 94/49(64) {77/36(51) - 167/90(120)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.9 kg (admission): 77.2 kg
             Total In:
                                                                  2,755 mL
                                                                    795 mL
   PO:
             TF:
   IVF:
                                                                  2,755 mL
                                                                    795 mL
   Blood products:
   Total out:
                                                                  1,072 mL
                                                                  1,280 mL
   Urine:
                                                                  1,072 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,683 mL
                                                                   -485 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 560 (399 - 560) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/32/177/19/-4
   Ve: 8.8 L/min
   PaO2 / FiO2: 443
   Physical Examination
   Ventilated, intubated. [**Location (un) 408**]-J in place.
   Overweight man
   Scleral edema.
   Heart sounds dual, no murmur, no s3, s4 appreciated
   Chest expansion symmetric without adventitious sounds laterally
   Belly tense, hypoactive bowel sounds
   Trace peripheral edema
   not responsive to verbal stimuli, but has spontaneous movement (bicycle
   leg movements) to mouthcare.  Response to pain questionable as no
   response to nailbed pressure (also on fentanyl). Spontaneous blinking
   present, very minimal corneal reflex, pupils constricted and reactive
   (more on left than right), + gag reflex with mouth care.  Brisk
   patellar reflex, neutral babinski.
   Labs / Radiology
   133 K/uL
   10.7 g/dL
   111 mg/dL
   1.6 mg/dL
   19 mEq/L
   4.4 mEq/L
   23 mg/dL
   115 mEq/L
   141 mEq/L
   31.4 %
   6.1 K/uL
        [image002.jpg]
   PTT 52.9   INR 1.1   ABG  7.38/32/177/20    lactate 0.8   ca 7.2   mg
   2.0   p 3.7   ALT 165  AST 71   AP  32
                             [**2156-5-31**]  12:45 PM
                             [**2156-5-31**]  04:02 PM
                             [**2156-5-31**]  04:43 PM
                             [**2156-5-31**]  06:26 PM
                             [**2156-5-31**]  08:36 PM
                             [**2156-5-31**]  08:40 PM
                             [**2156-5-31**]  10:19 PM
                             [**2156-6-1**]  02:15 AM
                             [**2156-6-1**]  05:52 AM
                             [**2156-6-1**]  06:05 AM
   WBC
   6.1
   Hct
   31.4
   Plt
   133
   Cr
   1.9
   1.6
   1.6
   TropT
   0.38
   0.67
   TCO2
   19
   19
   19
   21
   19
   20
   20
   Glucose
   85
   89
   97
   111
   Other labs: PT / PTT / INR:13.2/52.9/1.1, CK / CKMB /
   Troponin-T:1394/42/0.67, ALT / AST:165/71, Alk Phos / T Bili:32/0.3,
   Differential-Neuts:91.3 %, Lymph:3.9 %, Mono:4.2 %, Eos:0.2 %, Lactic
   Acid:0.8 mmol/L, Albumin:4.0 g/dL, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.7 mg/dL
   Micro:  Urine cultures NGTD x 2
   Assessment and Plan
   Assessment
   66 YOM with no past medical history or recent medical care presents
   after cardiac arrest requiring defibrillation times 2, ST elevations on
   EKG by EMS and OSH, transferred for further management and found to
   have resolution of ST elevations but poor neurological exam.  Initiated
   on cooling protocol.
   Plan
   Cardiorespiratory Arrest
   Likely from MI causing vfib probably STEMI, although elevations
   resolved by the time he reached [**Hospital1 5**].  Was initiated on cooling
   protocol and is now approx 64 hrs post arrest.
   - Continue aspirin, plavix, high dose atorvastatin
   - stop heparin gtt  given cardiac biomarkers trendind down
   - am EKG and monitor on telemetry
   Mental Status
   - Per cooling protocol;
      *continuous EEG x 48 hr completed
 f/u with neuro
      * cool to 33.5 x 24 hrs
 has now been rewarmed (paralytics off
   since 5 am)
      *sedation also weaned
 neuro exam still showing defecits
      *HOB elevated > 30 degrees
   - Appeciate Neurology input; will reach 72 hrs post arrest today for
   prognostication
   - Stop medazolam/fentanyl for neuro assessment today
   - continue propofol as needed for sedation, plan to turn off by 1:30 pm
   Intubation, respiratory failure, critical care
   Initially intubated for airway protection. Did well on pressure support
   yesterday, but developed non-gap acidosis with rewarming with
   respiratory compensation.  Was rested on AC overnight.  Chest x ray
   showed right perihilar haze that could be edema or consolidation.
   - try pressure support again today and attempt SBT for possible
   extubation
   - monitor with  ABG  (goal CO2 < 40)
   - continue antibiotics with azithromycin/ceftriaxone D #[**5-20**]
   - Q 6 mouth care while on ventilator
   Hypertension
   Pt came to the floor with blood pressures above 250. Has to be some
   concern for cerebral ischemia/infarction as a cause, also consistent
   with posturing. [**Month (only) 8**] also have been pharmacologic/catecholaminergic.
   Was started on nitro gtt, but this was weaned.  Pt actually required
   dopamine for a short time, but this was also weaned.
   - stop lopressor IV while starting propofol as above which will likely
   drop pressure
   - will give dopamine if needed for hypotension
   - will eventually convert to PO beta blocker and ACEI once under better
   control and taking Pos
   - goal MAP > 60
   UTI
   Moderate bacteria seen on UA from [**5-29**] and [**5-30**] but cultures show no
   growth.  Foley manipulated again last night.
   - repeat urine culture until no bacteria
   - continue antibiotics for now (D #4)
   Low urine output/obstruction
   Was bolused x 2 for low urine output that initially responded, but then
   dropped off.  Fena and feurea were prerenal, but bladder scan showed
   almost a liter in bladder.  Pt uncomfortable.  Urology replaced foley.
   ARF
   Creatinine stable and trending down.  Fena/FeUrea was prerenal, however
   clearly also obstructed and possible UTI.
   - Continue to trend creatinine
   - PRN IV bolus for urine output (with properly working foley)
   Anemia:
   Repeat Hct low.  Had bleeding from ruptured arterial line today.  No
   BMs and no evidence of melena.  Also received IVF yesterday for low UOP
   so may have some dilutional component.  Abdomen soft and + bowel
   sounds.
   - guiuac stools
   - check pm Hct
   FEN/GI
   Has OG tube in place. Has been NPO while on paralytics, but these
   stopped yesterday and bowel sounds present on exam.
   - famotidine IV Q 12
   - start tube feeds
   - nutrition consult
   ACCESS
   2 x 18 G PIV's
   - left groin double lumen central line
   - a line removed today after split caused bleeding
   PROPHYLAXIS:
   -DVT ppx with heparin sub Q
   -Pain management with fentanyl / propofol
   -ppi with famotidine
   -Bowel regimen with docusate, senna when taking PO
   CODE: full
   COMM: [**Name (NI) **] (son, should be called first) [**Telephone/Fax (1) 12697**], [**Name (NI) 3373**]
   (wife) [**Telephone/Fax (1) 12698**], [**Doctor First Name 1189**] (daughter) [**Telephone/Fax (1) 12699**]
   DISPO: CCU for now
 CARDIAC ARREST
 HYPERTENSION, BENIGN
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   ------ Protected Section ------
   Attending
s Note
   Reviewed overnight events and data.
   Agree with Dr.[**Last Name (STitle) 12333**] notes and agree with treatment plan outlined.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**].
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**],MD
   on:[**2156-6-2**] 14:56 ------

2156-06-02 07:20:00 Physician Resident Progress Note
Chief Complaint: Cardiorespiratory arrest at home - cardiac etiology,
   likely VF arrest.
   24 Hour Events:
   - sedation weaned and evaluated by neuro who were encouraged by
   spontaneous movements, downgoing babinsky, followed simple command of
   raising leg, eeg showed alpha waves
   - sats dropped so got CXR which shows worsening opacities on right, but
   sats improved when better sedated (thought to be from struggling
   against machine)
   -neuro recommended head CT and take it day by day with neuro exams
   - restarted on propofol after neuro evaluation for sedation and
   hypertension
   - Head CT preliminarily showed no acute infarction
   - started on tube feeds
   - pm crit stable
   - 4 am, decreasing sats to high 80s, thick secretions, temp 100 po,
   worsening CXR earlier so --> started on vanc/zosyn for aspiration
   - was found to be autopeeping, which resolved with CPAP and increased
   propofol to 60 mg(also abg O2 better than pleth sats)
   - this am had RSBI despite sedation and was 40 on pressure support
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Encephalopathy
   Allergies:
   Last dose of Antibiotics:
   Ampicillin - [**2156-5-30**] 02:09 PM
   Ceftriaxone - [**2156-6-1**] 08:00 PM
   Azithromycin - [**2156-6-1**] 08:58 PM
   Vancomycin - [**2156-6-2**] 05:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-6-2**] 06:06 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2156-6-1**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-6-2**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 93 (66 - 113) bpm
   BP: 111/60(70) {89/43(54) - 186/102(106)} mmHg
   RR: 15 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.9 kg (admission): 77.2 kg
             Total In:
                                                                  2,116 mL
                                                                    642 mL
   PO:
             TF:
                                                                     80 mL
                                                                     71 mL
   IVF:
                                                                  2,037 mL
                                                                    511 mL
   Blood products:
   Total out:
                                                                  2,185 mL
                                                                    420 mL
   Urine:
                                                                  2,185 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -69 mL
                                                                    222 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 436 (436 - 436) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 41
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.34/45/78.[**Numeric Identifier 7**]/23/-1
   Ve: 8.6 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Spontaneous purposeless movement, in [**Location (un) 408**]-J collar, itubated on
   pressure support, tube feeds not running, urine dark with some sediment
   Patient looks stated age and overweight.
   Scleral edema present, no icterus, some spontaneous facial movement.
   Neck
 actually moving within collar, but cannot assess JVP, tone, LAD,
   etc.
   Thorax of normal appearance, symmetric expansion, clear anteriorly and
   laterally, no area of reduced breath sounds.
   Heart sounds dual, no S3/4, no M/R. Cardiac percussion reveals normal
   span with some dullness also over PMI.
   Abdomen benign
 soft, resonant, bowel sounds present (normal).
   Peripheral pulses (radial and dorsalis pedis) normal.
   Patient opened eyes and fixated on mine with sternal rub along with
   saying
[**Known firstname **]
. Did not follow commands to lift arms or close hands.
   Tone normal in arms and legs. Spontaneous movement of CN III, IV, V,
   VI, VII, [**Doctor First Name **], all limbs. Gag present (and results in increased movement
   of neck, face, limbs) when suctioned. Sluggish blink to confrontation,
   sluggish and small corneals bilaterally, pupils reactive (4->2 mm),
   biceps and brachioradialis not elicitable today, but knees brisk and
   plantar stimulation with withdrawal. No response to nail bed pressure
   or taking blood gas.
   Labs / Radiology
   149 K/uL
   10.6 g/dL
   108 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.9 mEq/L
   21 mg/dL
   113 mEq/L
   143 mEq/L
   31.1 %
   7.0 K/uL
        [image002.jpg]
                             [**2156-5-31**]  08:36 PM
                             [**2156-5-31**]  08:40 PM
                             [**2156-5-31**]  10:19 PM
                             [**2156-6-1**]  02:15 AM
                             [**2156-6-1**]  05:52 AM
                             [**2156-6-1**]  06:05 AM
                             [**2156-6-1**]  07:58 AM
                             [**2156-6-1**]  04:52 PM
                             [**2156-6-2**]  03:46 AM
                             [**2156-6-2**]  03:53 AM
   WBC
   6.1
   7.0
   Hct
   31.4
   31.6
   29.9
   31.1
   Plt
   133
   149
   Cr
   1.6
   1.6
   1.1
   TropT
   0.67
   TCO2
   21
   19
   20
   20
   25
   Glucose
   97
   111
   108
   Other labs: PT / PTT / INR:12.3/29.1/1.0, CK / CKMB /
   Troponin-T:1394/42/0.67, ALT / AST:165/71, Alk Phos / T Bili:32/0.3,
   Differential-Neuts:91.3 %, Lymph:3.9 %, Mono:4.2 %, Eos:0.2 %, Lactic
   Acid:0.8 mmol/L, Albumin:4.0 g/dL, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.0 mg/dL
   Fluid analysis / Other labs: None.
   Imaging:
   Head CT without gross edema, some periventricular white matter disease
   and cerebral atrophy, but no clear acute infarction. No bleed.
   CXR Some edema and concern for retrocardiac opacity, but no other lobar
   consolidation.
   Microbiology: Sputum: 4+ GPC in pairs and clusters.
   Blood and urine: Pending. No growth so far from [**5-29**] onward.
   ECG: No new this a.m. Q-waves in inferior distribution that correlate
   with echo. ST segment changes, peri-arrest have resolved.
   Assessment
     66 YOM with no past medical history or recent medical care presents
   after cardiac arrest requiring defibrillation times 2, ST elevations on
   EKG by EMS and OSH, transferred for further management and found to
   have resolution of ST elevations but poor neurological exam.  Initiated
   on cooling protocol.
     Further history from family suggests that CPR not done at scene and
   time from discovery (was moaning) until EMS and AED, restoration of
   cardiorespiratory activity about 10 minutes.
     Some improvement in exam since yesterday a.m., but Neurology note
   some features worse. Indeterminate prognosis. Will perform head MRI
   today, as suggested by Neurology.
   Plan
   Cardiorespiratory Arrest
   Likely from MI causing vfib probably STEMI, although elevations
   resolved by the time he reached [**Hospital1 5**].  Was initiated on cooling
   protocol and is now more than 72 hrs post arrest. CK-MB peaked on [**5-30**],
   but TT trending down from admission. Appears likely that ACS occurred
   some time prior to arrival in [**Hospital1 5**], given that TT had peaked.
   Therefore patient may have had some protracted myocardial ischemia
   followed by arrhythmia and collapse.
   - Continue aspirin, plavix, high dose atorvastatin
   - stop heparin gtt  given cardiac biomarkers trending down
   - monitor on telemetry
   - maintain electrolytes: K > 4, Mg > 2
   Mental Status
   Given restoration of brainstem reflexes prior to 72 hours, prognosis is
   indeterminate, rather than poor. Patient
s neurologic status continues
   to evolve. CT with edema or clear near infarction. EEG revealed
   restoration of forebrain activity without seizure and was thus
   discontinued. Sedation still a factor in neurologic evaluation
 at 50
   now.
   - Appeciate Neurology input
 they would like head MRI (likely with
   DWI)
 their impression was some worsening today
   - Stop propofol for rounds today
   Intubation, respiratory failure, critical care, infiltrate
   Initially intubated for airway protection. Did well on pressure support
   this a.m. with essentially normal gas. Concern for aspiration and PNA,
   therefore on vancomycin and Zosyn.
   - Extra dose of vancomycin this a.m. to
load
   - Continue pressure support again today and attempt SBT for possible
   extubation
   - monitor with  ABG early this afternoon
   - Stop ceftriaxone, but continue azithromycin would have been/is D #[**6-19**]
   - Q 6 mouth care while on ventilator
   - Given good gas on PSV and likely lying down (due to fem line) cause
   of PSV 5/10 needed, could likely extubate, but will need to perform
   sedated MRI first, then get PICC, pull femoral line
   Hypertension
   Pt came to the floor with blood pressures above 250. Has to be some
   concern for cerebral ischemia/infarction as a cause, also consistent
   with posturing. [**Month (only) 8**] also have been pharmacologic/catecholaminergic.
   Was started on nitro gtt, but this was weaned.  Pt actually required
   dopamine for a short time, but this was also weaned. Pressure ideally
   should be in 150s or so post-cardiac arrest, but the benefit of this is
   likely no longer present
 will therefore aim for normal range.
   - stop lopressor IV while giving propofol as above which will likely
   drop pressure
   - will give dopamine if needed for hypotension
   - will eventually convert to PO beta blocker and ACEI once under better
   control and taking Pos
   - goal normotension, systolics 100-140, with MAP > 65
   UTI
   Moderate bacteria seen on UA from [**5-29**] and [**5-30**] but cultures show no
   growth.  Foley manipulated again last night.
   - repeat urine culture until no bacteria
   - continue antibiotics for now (D #4)
   Low urine output/obstruction
   Was bolused x 2 for low urine output that initially responded, but then
   dropped off.  Fena and feurea were prerenal, but bladder scan showed
   almost a liter in bladder.  Pt uncomfortable.  Urology replaced foley.
   ARF
   Creatinine stable and trending down. Like obstructive nephropathy along
   with ATN. Fena/FeUrea was pre-renal.
   - Continue to trend creatinine
   - PRN IV bolus for urine output (with properly working foley)
   - Spin urine to look for cast and red cells
   Anemia:
   Repeat Hct low.  Had bleeding from ruptured arterial line today.  No
   BMs and no evidence of melena.  Also received IVF yesterday for low UOP
   so may have some dilutional component.  Abdomen soft and + bowel
   sounds. Should be reversible
   - guiuac stools
   - check pm Hct
   FEN/GI
   Has OG tube in place. Has been NPO while on paralytics, but these
   stopped yesterday and bowel sounds present on exam.
   - famotidine IV Q 12
   - start tube feeds
   - nutrition consult
   ACCESS
   2 x 18 G PIV's
   - left groin double lumen central line
   - a line removed today after split caused bleeding
   PROPHYLAXIS:
   -DVT ppx with heparin sub Q
   -Pain management with fentanyl / propofol
   -ppi with famotidine
   -Bowel regimen with docusate, senna when taking PO
   CODE: full
   COMM: [**Name (NI) **] (son, should be called first) [**Telephone/Fax (1) 12697**], [**Name (NI) 3373**]
   (wife) [**Telephone/Fax (1) 12698**], [**Doctor First Name 1189**] (daughter) [**Telephone/Fax (1) 12699**]
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Comments: Tube feeding started yesterday.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-5-30**] 03:00 PM
   20 Gauge - [**2156-5-31**] 10:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker - famotidine
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Attending
s Note
   Reviewed overnight events and data.
   Agree with Dr.[**Last Name (NamePattern4) 12757**]
s  notes and agree with treatment plan
   outlined.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**].
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**],MD
   on:[**2156-6-2**] 14:57 ------

2156-06-03 07:31:00 Physician Resident Progress Note
Chief Complaint: Likely VF arrest.
   24 Hour Events:
 PICC LINE - START [**2156-6-2**] 04:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2156-6-2**] 09:12 PM
 MULTI LUMEN - STOP [**2156-6-2**] 11:01 PM
   - had difficulty with weaning; unable to decrease vent settings without
   desaturations and increased RR
   - neurology felt some elements of neuro exam concerning today for
   possible brain stem infarct; requested MR
   - had to be put back on AC in the early evening due to
   tachypenia/desaturation; repeat ABG looks okay
   - PICC was placed and followed by short runs of VT - PICC was too far
   in and VT resolved when it was pulled back.
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2156-6-1**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-6-2**] 06:06 AM
   Azithromycin - [**2156-6-2**] 02:00 PM
   Vancomycin - [**2156-6-2**] 08:22 PM
   Piperacillin - [**2156-6-2**] 10:06 PM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-6-3**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 90 (66 - 97) bpm
   BP: 107/89(93) {92/50(60) - 170/96(111)} mmHg
   RR: 22 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.9 kg (admission): 77.2 kg
             Total In:
                                                                  2,617 mL
                                                                    556 mL
   PO:
             TF:
                                                                    481 mL
                                                                    268 mL
   IVF:
                                                                  1,956 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                    625 mL
   Urine:
                                                                  2,700 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -83 mL
                                                                    -69 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 412 (412 - 589) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 134
   PIP: 21 cmH2O
   Plateau: 13 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/39/90.[**Numeric Identifier 299**]/25/0
   Ve: 9.3 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Physical examination notable for profound sedation (propofol is at 60
   and failed RSBI). No spinal reflexes whatever. No response to pain. No
   spontaneous movement. Slight exotropia. Corneal reflexes intact (both
   eyes blink now). Pupillary response to light (3 mm) present (to 2 mm)
   but not maintained.
   Examination from yesterday:
   Spontaneous purposeless movement, in [**Location (un) 408**]-J collar, itubated on
   pressure support, tube feeds not running, urine dark with some sediment
   Patient looks stated age and overweight.
   Scleral edema present, no icterus, some spontaneous facial movement.
   Neck
 actually moving within collar, but cannot assess JVP, tone, LAD,
   etc.
   Thorax of normal appearance, symmetric expansion, clear anteriorly and
   laterally, no area of reduced breath sounds.
   Heart sounds dual, no S3/4, no M/R. Cardiac percussion reveals normal
   span with some dullness also over PMI.
   Abdomen benign
 soft, resonant, bowel sounds present (normal).
   Peripheral pulses (radial and dorsalis pedis) normal.
   Patient opened eyes and fixated on mine with sternal rub along with
   saying
[**Known firstname **]
. Did not follow commands to lift arms or close hands.
   Tone normal in arms and legs. Spontaneous movement of CN III, IV, V,
   VI, VII, [**Doctor First Name **], all limbs. Gag present (and results in increased movement
   of neck, face, limbs) when suctioned. Sluggish blink to confrontation,
   sluggish and small corneals bilaterally, pupils reactive (4->2 mm),
   biceps and brachioradialis not elicitable today, but knees brisk and
   plantar stimulation with withdrawal. No response to nail bed pressure
   or taking blood gas.
   Labs / Radiology
   162 K/uL
   9.9 g/dL
   112 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   13 mg/dL
   111 mEq/L
   144 mEq/L
   28.5 %
   6.6 K/uL
        [image002.jpg]
                             [**2156-6-1**]  02:15 AM
                             [**2156-6-1**]  05:52 AM
                             [**2156-6-1**]  06:05 AM
                             [**2156-6-1**]  07:58 AM
                             [**2156-6-1**]  04:52 PM
                             [**2156-6-2**]  03:46 AM
                             [**2156-6-2**]  03:53 AM
                             [**2156-6-2**]  07:44 AM
                             [**2156-6-2**]  08:20 PM
                             [**2156-6-3**]  04:13 AM
   WBC
   6.1
   7.0
   6.6
   Hct
   31.4
   31.6
   29.9
   31.1
   28.5
   Plt
   133
   149
   162
   Cr
   1.6
   1.1
   0.9
   TropT
   0.67
   TCO2
   20
   20
   25
   26
   26
   Glucose
   111
   108
   112
   Other labs: PT / PTT / INR:12.3/29.1/1.0, CK / CKMB /
   Troponin-T:1394/42/0.67, ALT / AST:93/51, Alk Phos / T Bili:71/0.3,
   Differential-Neuts:91.3 %, Lymph:3.9 %, Mono:4.2 %, Eos:0.2 %, Lactic
   Acid:0.8 mmol/L, Albumin:4.0 g/dL, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.5 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: MRI head:
   Our prelim read: Leucoaraiosis, most marked around ventricles, some
   atrophy with enlarged ventricles, stable from CT. Comparison to CT
   reveals no notable edema. No obvious hypoperfusion injury (water-shed)
   or anoxic injury.
   Microbiology: Sputum culture reveals typical commensurate growth. GPCs
   in clusters seen on gram stain.
   ECG: .
   Assessment
     66 YOM with no past medical history or recent medical care presents
   after cardiac arrest requiring defibrillation times 2, ST elevations on
   EKG by EMS and OSH, transferred for further management and found to
   have resolution of ST elevations but poor neurological exam.  Initiated
   on cooling protocol.
     Further history from family suggests that CPR not done at scene and
   time from discovery (was moaning) until EMS and AED, restoration of
   cardiorespiratory activity about 10 minutes.
     Some improvement in exam since yesterday a.m., but Neurology note
   some features worse. Indeterminate prognosis. Will perform head MRI
   today, as suggested by Neurology.
   Plan
   Cardiorespiratory Arrest
   Likely from MI causing vfib probably STEMI, although elevations
   resolved by the time he reached [**Hospital1 5**].  Was initiated on cooling
   protocol and is now more than 72 hrs post arrest. CK-MB peaked on [**5-30**],
   but TT trending down from admission. Appears likely that ACS occurred
   some time prior to arrival in [**Hospital1 5**], given that TT had peaked.
   Therefore patient may have had some protracted myocardial ischemia
   followed by arrhythmia and collapse.
   - Continue aspirin, plavix, high dose atorvastatin
   - stop heparin gtt  given cardiac biomarkers trending down
   - monitor on telemetry
   - maintain electrolytes: K > 4, Mg > 2
   Mental Status
   Given restoration of brainstem reflexes prior to 72 hours, prognosis is
   indeterminate, rather than poor. Patient
s neurologic status continues
   to evolve. CT with edema or clear near infarction. EEG revealed
   restoration of forebrain activity without seizure and was thus
   discontinued. Sedation still a factor in neurologic evaluation
 at 50
   now.
   - Appeciate Neurology input
 they would like head MRI (likely with
   DWI)
 their impression was some worsening today
   - Stop propofol for rounds today
   Intubation, respiratory failure, critical care, infiltrate
   Initially intubated for airway protection. Did well on pressure support
   this a.m. with essentially normal gas. Concern for aspiration and PNA,
   therefore on vancomycin and Zosyn.
   - Extra dose of vancomycin this a.m. to
load
   - Continue pressure support again today and attempt SBT for possible
   extubation
   - monitor with  ABG early this afternoon
   - Stop ceftriaxone, but continue azithromycin would have been/is D #[**6-19**]
   - Q 6 mouth care while on ventilator
   - Given good gas on PSV and likely lying down (due to fem line) cause
   of PSV 5/10 needed, could likely extubate, but will need to perform
   sedated MRI first, then get PICC, pull femoral line
   Hypertension
   Pt came to the floor with blood pressures above 250. Has to be some
   concern for cerebral ischemia/infarction as a cause, also consistent
   with posturing. [**Month (only) 8**] also have been pharmacologic/catecholaminergic.
   Was started on nitro gtt, but this was weaned.  Pt actually required
   dopamine for a short time, but this was also weaned. Pressure ideally
   should be in 150s or so post-cardiac arrest, but the benefit of this is
   likely no longer present
 will therefore aim for normal range.
   - stop lopressor IV while giving propofol as above which will likely
   drop pressure
   - will give dopamine if needed for hypotension
   - will eventually convert to PO beta blocker and ACEI once under better
   control and taking Pos
   - goal normotension, systolics 100-140, with MAP > 65
   UTI
   Moderate bacteria seen on UA from [**5-29**] and [**5-30**] but cultures show no
   growth.  Foley manipulated again last night.
   - repeat urine culture until no bacteria
   - continue antibiotics for now (D #4)
   Low urine output/obstruction
   Was bolused x 2 for low urine output that initially responded, but then
   dropped off.  Fena and feurea were prerenal, but bladder scan showed
   almost a liter in bladder.  Pt uncomfortable.  Urology replaced foley.
   ARF
   Creatinine stable and trending down. Like obstructive nephropathy along
   with ATN. Fena/FeUrea was pre-renal.
   - Continue to trend creatinine
   - PRN IV bolus for urine output (with properly working foley)
   - Spin urine to look for cast and red cells
   Anemia:
   Repeat Hct low.  Had bleeding from ruptured arterial line today.  No
   BMs and no evidence of melena.  Also received IVF yesterday for low UOP
   so may have some dilutional component.  Abdomen soft and + bowel
   sounds. Should be reversible
   - guiuac stools
   - check pm Hct
   FEN/GI
   Has OG tube in place. Has been NPO while on paralytics, but these
   stopped yesterday and bowel sounds present on exam.
   - famotidine IV Q 12
   - start tube feeds
   - nutrition consult
   ACCESS
   2 x 18 G PIV's
   - left groin double lumen central line
   - a line removed today after split caused bleeding
   PROPHYLAXIS:
   -DVT ppx with heparin sub Q
   -Pain management with fentanyl / propofol
   -ppi with famotidine
   -Bowel regimen with docusate, senna when taking PO
   CODE: full
   COMM: [**Name (NI) **] (son, should be called first) [**Telephone/Fax (1) 12697**], [**Name (NI) 3373**]
   (wife) [**Telephone/Fax (1) 12698**], [**Doctor First Name 1189**] (daughter) [**Telephone/Fax (1) 12699**]
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2156-6-3**] 02:12 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-6-2**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker - famotidine
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU